US07196080B2
2-Bromo-6-iodopyridin-3-ol was reacted with potassium carbonate and benzyl bromide to obtain 3-(benzyloxy)-2-bromo-6-iodopyridine, which was then reacted in a similar manner to Reference Example 11, Example 22 and Example 4, successively. Further, the resulting product was subjected to catalytic reduction using palladium/carbon to obtain an objective compound.

reactant | 2-Bromo-6-iodopyridin-3-ol | BrC1=NC(=CC=C1O)I | C5H3BrINO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 3-(benzyloxy)-2-bromo-6-iodopyridine | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)I)Br | C12H9BrINO
